Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
bromide salts
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
___ - Diagnostic Cerebral Angiogram

 
History of Present Illness:
___ is a ___ year old female with history of right
cavernous carotid aneurysm clipping in ___ with Dr. ___ at
___ who was transferred from an outside hospital with a
non-traumatic SAH. Over the last few days she has felt as though
she had a cold with headache, sinus congestion, and stomach
aches.  This morning she woke with a "killer headache" and took 
a
nap for 45 minutes. She woke again with a severe headache,
stomach ache. She became diaphoretic, nauseous and vomited so 
she
called ___. Her BP was 189/107 on arrival to OSH. The OSH CT
abdomen with contrast was reportedly unremarkable. CT head 
showed
SAH and she was transferred to ___ for neurosurgical
evaluation. 

She reports her headache is improved on pain medication. She is
having nausea with vomiting and lightheadedness. She denies
recent falls or head trauma, seizures, incontinence of bowel and
bladder, numbness and tingling. She reports unsteady gait and
frequent falls (last fall 3 mos ago) over the last year and sees
a neurologist and going to vestibular therapy. She denies taking
anticoagulants. 
 
Past Medical History:
R proximal ICA aneurysm clipping ___, osteoarthritis, psoriatic 
arthritis, crohn's disease, giant cell arteritis, bowel 
resection, lg hiatal hernia repair, unsteady gait/frequent falls 
(last fall 3 mos ago), L hip replacement, MI - during induction 
of anesthesia likely catecholamine storm, HTN, HLD, PNA, L-spine 
discectomy, anxiety, depression, dry mouth, insomnia, GERD, 
frequent bowel obstructions
 
Social History:
___
Family History:
(Obtained from medical record)
Father died ___ of blood disease
Sister died ___ after seizures became anoxic with cardiac arrest
Sister with depression
Brother died ___ of aids
Brother ___ with MI and high cholesterol
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
Gen: WD/WN, moderate discomfort, NAD.
HEENT: Pupils:  PERRL       EOMs: intact
Neck: Supple. Able to perform chin to chest without significant
pain
Extrem: Warm and well-perfused. No C/C/E.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to 2mm
bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to finger rub bilaterally.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

Coordination: normal on finger-nose-finger, rapid alternating
movements, heel to shin

Handedness: Right

PHYSICAL EXAMINATION ON DISCHARGE:
patient awake and alert x 3. pupils ___ reactive. EOM intact. 
speech is clear and appropriate. follows commands. ___ 
throughout except for bilateral IP ___. face symmetric, tongue 
midline, no pronator drift. 
sensory: + right facial numbness with tingling; tongue numbness; 
RUE circumferential numbness; RLE numbness lateral aspect of 
leg. 

 
Pertinent Results:
Pertinent Results Available in OMR.
 
Brief Hospital Course:
Ms. ___ was transferred to the ___ ED with nontraumatic 
SAH. 

#SAH
The patient was admitted to the Neurosurgery service in the ___ 
for close neurologic monitoring.  CTA head and neck were 
negative for vascular abnormality. On ___, she underwent 
diagnostic angiogram which was negative.  Please see separately 
dictated procedure note for full details. The patient underwent 
a MRI for complaints of right sided facial numbness which showed 
a small left thalamic subacute infarct. Neurology was consulted 
who requested labs to rule out vasculitis. On ___, she 
underwent a TTE however the bubble study could not performed. On 
___, the patient underwent a TTE bubble study which was 
negative. On ___, the patient remained neurologically stable on 
examination. She underwent TCDs which showed a increased 
velocity in the right PCA but no vasospasm. On ___, the patient 
remained neurologically stable on examination. On ___ patient 
remains neurologically stable, repeat CTA reviewed by Vascular 
team. 

#Respiratory
CXR was performed at the time of admission which showed low lung 
volumes and LLL atelectasis. 

#Cardiovascular
The patient had an elevated troponin level at the time of 
admission, which trended down and normalized. These findings 
were discussed with ___, MD and no further ___ was 
needed and she should follow-up with her home cardiologist or 
with BI general cardiology.

On ___ Patient mobilizing with nursing staff without 
difficulty. Discussed discharge instructions and follow-up with 
the patient and family and all questions answered. Discussed 
with patient and family at bedside regarding pain management; 
encourage the use of Tylenol and if needed may use Oxycodone 
however may cause rebound headaches. Patient acknowledged. 
Discussed the importance of follow-up with providers on 
___ basis and acknowledged however stated she does have 
her own providers. 

 
Medications on Admission:
Parnate 10mg TID, Pilocarpine 5mg 6x/day, atenolol 12.5mg daily, 
Norvasc 5mg daily, prednisone taper 20mg qam x 7 days -> 10mg 
qam x7 days, methocarbemol 500mg qHS, Seroquel 100-300mg qHS, 
omeprazole w bicarb 20mg qam, dicyclomine HCL 10mg QID, PRN 
upset stomach, ondanestron 8mg PRN, lorazepam 5mg PRN, MVI, fish 
oil 1000mg qpm, turmeric 500mg BID, probiotic 2 qam, taclonex 
ointment PRN, betamethasone cr PRN, clindamycin 300mg 1 her 
prior to dental surgery, vitamin B inj qmonth, Enyvia infusion 
q8wks
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
2.  Docusate Sodium 100 mg PO BID  
3.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 6 hours as 
needed for pain Disp #*45 Tablet Refills:*0 
4.  PredniSONE 10 mg PO DAILY Duration: 7 Doses 
This is dose # 2 of 2 tapered doses
RX *prednisone 10 mg 1 tablet(s) by mouth daily for 7 days only 
Disp #*7 Tablet Refills:*0 
5.  Senna 17.2 mg PO QHS  
6.  Verapamil SR 120 mg PO BID 
RX *verapamil 120 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*1 
7.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth every evening Disp 
#*30 Tablet Refills:*0 
8.  Atenolol 12.5 mg PO DAILY  
9.  Methocarbamol 500 mg PO QHS  
10.  Omeprazole 20 mg PO DAILY  
11.  Tranylcypromine Sulfate 10 mg PO BID  
12.  Tranylcypromine Sulfate 20 mg PO QAM  
13.Outpatient Physical Therapy
outpatient physical therapy 

dx: SAH, left thalamic infarct 

please evaluate and treat 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Subarachnoid Hemorrhage
Left Thalamic Stroke 
Elevated Troponins 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Surgery/ Procedures:
• You had a subarachnoid hemorrhage present on imaging.  
Diagnostic angiogram was performed to attempt to find the source 
of the bleeding.

Care of the Puncture Site
•You will have a small bandage over the site.
•Keep the site clean with soap and water and dry it carefully.
•You may use a band-aid if you wish.

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•You make take a shower. 
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you must refrain 
from driving. 

Medications
•Resume your normal medications and begin new medications as 
directed.
•Please do NOT take any blood thinning medication (Aspirin, 
Plavix, Coumadin) until cleared by the neurosurgeon/neurology. 
•You have been discharged on a medication to lower your 
cholesterol levels. We recommend that you continue this 
medication indefinitely. Please follow up with your 
Cardiologist. 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•Mild to moderate headaches that last several days to a few 
weeks.
•Difficulty with short term memory. 
•Fatigue is very normal
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site or puncture site. 
•Fever greater than 101.5 degrees Fahrenheit
•Constipation
•Blood in your stool or urine
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___